US08314087B2
1-(3-Morpholinopropyl)-3-(3-((6-oxo-3-phenylpyridazin-1(6H)-yl)methyl)phenyl)urea
To a solution of 2-(3-aminobenzyl)-6-phenylpyridazin-3(2H)-one (280 mg, 1010 μmol) and 4-nitrophenyl carbonochloridate (215 mg, 1067 μmol) in CH2Cl2 (5 mL) was added pyridine (82 μl, 1010 μmol). The resulting mixture was stirred at rt overnight. A solution of 3-morpholinopropan-1-amine (170 mg, 1179 μmol) in CH2Cl2 (3 mL) was added to the mixture, resulting in a yellow solution. After 1 h, the solution was diluted with EtOAc (30 mL) and was washed with NaOH (1 N, 10 mL, 3×). The organic layer was further washed with H2O (10 mL), NaHCO3 (satd., 10 mL), dried over Na2SO4 and concentrated. The yellow film was triturated with hexane-EtOAc (2:1). The oil was washed with ether, acetone in ether (10%), and pumped to a yellow foam (>110 mg). LCMS (ESI pos. ion): calc'd for C25H29N5O3: 447.5; found: 448.3 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.63-1.71 (m, 2 H) 2.32-2.43 (m, 6 H) 3.26-3.36 (m, 2 H) 3.52-3.59 (m, 4 H) 5.36 (s, 2 H) 5.51 (br. s., 1 H) 6.71 (br. s., 1 H) 7.01 (d, J=10.04 Hz, 1 H) 7.19 (d, J=7.53 Hz, 1 H) 7.24-7.31 (m, 1 H) 7.32 (s, 1 H) 7.36 (d, J=8.03 Hz, 1 H) 7.40-7.50 (m, 3 H) 7.67 (d, J=9.54 Hz, 1 H) 7.78 (d, J=7.53 Hz, 2 H).

reactant | 2-(3-aminobenzyl)-6-phenylpyridazin-3(2H)-one | 1010 μmol, 280 mg | NC=1C=C(CN2N=C(C=CC2=O)C2=CC=CC=C2)C=CC1 | C17H15N3O
reactant | 4-nitrophenyl carbonochloridate | 1067 μmol, 215 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | pyridine | 1010 μmol, 82 μl | N1=CC=CC=C1 | C5H5N
reactant | 3-morpholinopropan-1-amine | 1179 μmol, 170 mg | O1CCN(CC1)CCCN | C7H16N2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 1-(3-Morpholinopropyl)-3-(3-((6-oxo-3-phenylpyridazin-1(6H)-yl)methyl)phenyl)urea | O1CCN(CC1)CCCNC(=O)NC1=CC(=CC=C1)CN1N=C(C=CC1=O)C1=CC=CC=C1 | C25H29N5O3
